US09212172B2
Bazedoxifene hydrochloride (20 g) and dimethylformamide (200 mL) are charged into a round bottomed flask and stirred for 10-15 minutes. To the reaction mixture, triethylamine (8 mL) and toluene (400 mL) are added and the mixture is stirred at room temperature for 10-20 minutes. Then two lots of water (40 mL and 860 mL) are sequentially added with intermittent stirring for 10-20 minutes and finally the reaction mixture is stirred for 5-6 hours at room temperature. The reaction mixture is then cooled to 7.5-12.5° C. and stirred at the same temperature for another 3-4 hours. The solid formed is collected by filtration, washed with water (40 mL), toluene (40 mL) and dried under vacuum below 50° C. to afford 16.2 g of crystalline bazedoxifene free base Form A of 99.79% HPLC purity.

reactant | Bazedoxifene hydrochloride | 20 g | CC1=C(N(C2=C1C=C(C=C2)O)CC3=CC=C(C=C3)OCCN4CCCCCC4)C5=CC=C(C=C5)O.Cl
reactant | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
reactant | triethylamine | 8 mL | C(C)N(CC)CC | C6H15N
reactant | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 40 mL | O | H2O
product | bazedoxifene | 16.2 g | CC=1C=2C=C(C=CC2N(C1C=3C=CC(=CC3)O)CC=4C=CC(=CC4)OCCN5CCCCCC5)O | C30H34N2O3
